US05021568
A mixture of 80.5 g (0.5 mol) of 4-phenyl-2-pyrrolidone, 70 g (1.25 mol) of potassium hydroxide, 500 ml of dimethylsulphoxide and 150 ml of toluene are heated at reflux under stirring at the reaction mixture temperature of 130° C. till a complete dispergation of the alkali, whereafter the mixture is dropwise added with 153 g (1.25 mol) of ethylchloroacetate and allowed to stand at room temperature for one day. The mixture is diuted with 1.2 l of water and extracted twice with 100 ml portions of toluene; the extracts are subjected to fractionation to give 73.2 g (47%) of (2-oxo-4-phenyl-1-pyrrolidinyl)acetic acid carboethoxymethyl ester, b.p. 210°-214° C. (1 mm Hg), nD20 =1.5212.

reactant | 4-phenyl-2-pyrrolidone | 0.5 mol, 80.5 g | C1(=CC=CC=C1)C1CC(NC1)=O | C10H11NO
reactant | potassium hydroxide | 1.25 mol, 70 g | [OH-].[K+]
reactant | dimethylsulphoxide | 500 ml | CS(=O)C | C2H6OS
reactant | ethylchloroacetate | 1.25 mol, 153 g | C(C)OC(CCl)=O | C4H7ClO2
reactant | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 1.2 l | O | H2O
product | (2-oxo-4-phenyl-1-pyrrolidinyl)acetic acid carboethoxymethyl ester | 73.2 g, 47% | C(=O)(OCC)COC(CN1C(CC(C1)C1=CC=CC=C1)=O)=O | C16H19NO5
